### PR TITLE
[Merged by Bors] - feat(RingTheory/Ideal): more lemmas about the height of an ideal

### PR DESCRIPTION
**Pull request by xyzw12345**
In this PR, we continue to port a part of Andrew Yang's lean3 repository at [this repository](https://github.com/erdOne/lean-AG-morphisms), which is appoved by @erdOne after his discussion with @chrisflav . This PR follows #20741 (merged by Bors) and #20744.

We ported Andrew's definition of `Ideal.height` and `Ideal.primeHeight` with some small changes in #20741, and in this PR, we ported some more lemmas about these definitions, finishing the porting work of dimension_theory/height.lean in that repository.

- [x] depends on: #20744 [some of the lemmas used spanRank]
- [x] depends on: #22236 [We separated the lemmas about `Order.height` and `krullDim` to this PR]
Co-authored-by:
@erdOne
@Xuchun-Li [li.xuchun@qq.com](mailto:li.xuchun@qq.com)
@jjdishere [emailboxofjjd@163.com](mailto:emailboxofjjd@163.com)
@Blackfeather007 [2100017455@stu.pku.edu.cn](mailto:2100017455@stu.pku.edu.cn)
@ShouxinZhang [202013140018@nuist.edu.cn](mailto:202013140018@nuist.edu.cn)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/KrullDimension/Basic.lean [hunk 1]
```diff
@@ -57,6 +57,30 @@ theorem ringKrullDim_eq_of_ringEquiv (e : R ≃+* S) :
 
 alias RingEquiv.ringKrullDim := ringKrullDim_eq_of_ringEquiv
 
+/-- A ring has finite Krull dimension if its Krull dimension is not ⊤ -/
+class FiniteRingKrullDim (R : Type*) [CommRing R] : Prop where
+  ringKrullDim_ne_top : ringKrullDim R ≠ ⊤
```
Comment (erdOne) [inline Mathlib/RingTheory/KrullDimension/Basic.lean:62]: This should just be an abbrev of `FiniteDimensionalOrder (PrimeSpectrum R)`. And the lemmas should be added for arbitrary orders (and I'm guessing most of them already exists)

File: Mathlib/RingTheory/Ideal/MinimalPrime/Localization.lean [hunk 2]
```diff
@@ -0,0 +1,76 @@
...
+- `IsLocalization.minimalPrimes_map`: If A is a localization of R with respect to the submonoid S,
+  J is an ideal of R, then the minimal primes over the span of the image of J (under R →+* A) are
+  exactly the ideals of A such that the preimage of which is a minimal prime over J.
+-/
+
+variable {R : Type*} [CommRing R]
+
+theorem Ideal.minimalPrimes_comap_subset {A : Type*} [CommRing A] (f : R →+* A) (J : Ideal A) :
+    (J.comap f).minimalPrimes ⊆ Ideal.comap f '' J.minimalPrimes :=
+  fun p hp ↦ Ideal.exists_minimalPrimes_comap_eq f p hp
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/MinimalPrime/Localization.lean:29]: This has nothing to do with localization and can probably live in `Basic.lean`

File: Mathlib/RingTheory/Ideal/MinimalPrime/Localization.lean [hunk 3]
```diff
@@ -0,0 +1,76 @@
...
+  replace h₂ : q'.comap (algebraMap R A) = q := by injection h₂
+  subst h₂
+  replace e := Ideal.map_mono (f := algebraMap R A) e
+  replace hq := Ideal.map_mono (f := algebraMap R A) hq.2
+  simp_rw [IsLocalization.map_comap S A] at e hq
+  exact Ideal.comap_mono (hp.2 ⟨h₁, hq⟩ e)
+
+theorem IsLocalization.minimalPrimes_map (S : Submonoid R) (A : Type*) [CommRing A]
+    [Algebra R A] [IsLocalization S A] (J : Ideal R) :
+    (J.map (algebraMap R A)).minimalPrimes = Ideal.comap (algebraMap R A)⁻¹' J.minimalPrimes := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/MinimalPrime/Localization.lean:52]:
```suggestion
    (J.map (algebraMap R A)).minimalPrimes = Ideal.comap (algebraMap R A) ⁻¹' J.minimalPrimes := by
```

File: Mathlib/RingTheory/KrullDimension/Basic.lean (hunk 1 above)
Comment (xyzw12345) [reply Mathlib/RingTheory/KrullDimension/Basic.lean:62]: Surprisingly, when I searched on loogle with the query `FiniteDimensionalOrder`, it appears to me that there's actually not many lemmas on that. But I agree with you on the part that we should just change the definition to `FiniteDimensionalOrder (PrimeSpectrum R)` and add the desired lemmas to the corresponding files.

Comment (erdOne) [reply Mathlib/RingTheory/KrullDimension/Basic.lean:62]: Hmmm. I think it is probably fine. If we later need a "finitedimensionalorder-or-empty" typeclass we can add it later. Or arguably `FiniteDimensionalOrder` is just wrong and we should fix that.

Comment (xyzw12345) [reply Mathlib/RingTheory/KrullDimension/Basic.lean:62]: Probably I'll post a thread on zulip so we could discuss this with other members of the community and see how we should deal with this?

Comment (xyzw12345) [reply Mathlib/RingTheory/KrullDimension/Basic.lean]: Anyway, it appeared that your initial suggestion probably made more sense, so we went with this approach and directly used `FiniteDimensionalOrder`, ignoring the trivial ring.

Comment (xyzw12345) [reply Mathlib/RingTheory/KrullDimension/Basic.lean]: Some other lemmas for the interaction between `FiniteDimensionalOrder` and `krullDim` have been added to Order.KrullDimension and Order.RelSeries

File: Mathlib/RingTheory/KrullDimension/Basic.lean [hunk 4]
```diff
@@ -62,6 +62,20 @@ theorem ringKrullDim_eq_of_ringEquiv (e : R ≃+* S) :
 
 alias RingEquiv.ringKrullDim := ringKrullDim_eq_of_ringEquiv
 
+/-- A ring has finite Krull dimension if its PrimeSpectrum is finite-dimensional(and non-empty) -/
+abbrev FiniteRingKrullDim (R : Type*) [CommSemiring R] :=
+  FiniteDimensionalOrder (PrimeSpectrum R)
+
+lemma ringKrullDim_ne_top [h : FiniteRingKrullDim R] :
```
Comment (erdOne) [inline Mathlib/RingTheory/KrullDimension/Basic.lean:69]:
```suggestion
lemma ringKrullDim_ne_top [FiniteRingKrullDim R] :
```

File: Mathlib/RingTheory/Localization/Ideal.lean [hunk 5]
```diff
@@ -167,6 +167,23 @@ theorem isPrime_of_isPrime_disjoint (I : Ideal R) (hp : I.IsPrime) (hd : Disjoin
   rw [isPrime_iff_isPrime_disjoint M S, comap_map_of_isPrime_disjoint M S I hp hd]
   exact ⟨hp, hd⟩
 
+theorem disjoint_comap_iff (S : Submonoid R) (A : Type*) [CommRing A]
```
Comment (erdOne) [inline Mathlib/RingTheory/Localization/Ideal.lean:170]:
```suggestion
theorem disjoint_comap_iff (S : Submonoid R) {A : Type*} [CommRing A]
```

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 6]
```diff
@@ -121,3 +120,194 @@ lemma Ideal.height_strict_mono_of_is_prime {I J : Ideal R} [I.IsPrime]
...
+  simp only [bot_le, and_true, Set.mem_setOf_eq, Minimal, IsMin]
+  constructor
+  · intro h; by_contra h'; push_neg at h'
+    obtain ⟨P, ⟨hP₁, ⟨hP₂, hP₃⟩⟩⟩ := h' (inferInstance)
+    exact hP₃ (h (b := ⟨P, hP₁⟩) hP₂)
+  · rintro ⟨hI, hI'⟩; intro b hb
+    exact hI' (y := b.asIdeal) b.isPrime hb
+
+theorem Ideal.isMaximal_of_primeHeight_eq_ringKrullDim {I : Ideal R} [hI : I.IsPrime]
+ [h : FiniteRingKrullDim R] (e : I.primeHeight = ringKrullDim R) : I.IsMaximal := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Height.lean:177]:
```suggestion
   [FiniteRingKrullDim R] (e : I.primeHeight = ringKrullDim R) : I.IsMaximal := by
```

File: Mathlib/Data/ENat/Basic.lean [hunk 7]
```diff
@@ -319,6 +319,12 @@ protected lemma le_sub_of_add_le_left (ha : a ≠ ⊤) : a + b ≤ c → b ≤ c
 protected lemma sub_sub_cancel (h : a ≠ ⊤) (h2 : b ≤ a) : a - (a - b) = b :=
   (addLECancellable_of_ne_top <| ne_top_of_le_ne_top h tsub_le_self).tsub_tsub_cancel_of_le h2
 
+lemma add_inj_of_ne_top {n : ℕ∞} (hn : n ≠ ⊤) : Function.Injective (fun a => a + n) := by
```
Comment (erdOne) [inline Mathlib/Data/ENat/Basic.lean:322]:
```suggestion
lemma add_left_injective_of_ne_top {n : ℕ∞} (hn : n ≠ ⊤) : Function.Injective (· + n) := by
```

Comment (erdOne) [reply Mathlib/Data/ENat/Basic.lean:322]: Can you also add `add_right_injective_of_ne_top`? Thanks.

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 8]
```diff
@@ -121,3 +120,194 @@ lemma Ideal.height_strict_mono_of_is_prime {I J : Ideal R} [I.IsPrime]
...
+  convert h₁; refine (eq_of_le_of_not_lt h₂ ?_).symm
+  intro h₃
+  have := h₁.1.1
+  have := finiteHeight_of_le h₂ (by exact IsPrime.ne_top')
+  exact lt_irrefl _
+     ((height_strict_mono_of_is_prime h₃).trans_le (e'.trans <| height_mono h₁.1.2))
+
+/-- A prime ideal has height zero if and only if it is minimal -/
+lemma Ideal.primeHeight_eq_zero_iff {I : Ideal R} [I.IsPrime] :
+  primeHeight I = 0 ↔ I ∈ minimalPrimes R := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Height.lean:166]:
```suggestion
    primeHeight I = 0 ↔ I ∈ minimalPrimes R := by
```

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 9]
```diff
@@ -121,3 +120,194 @@ lemma Ideal.height_strict_mono_of_is_prime {I J : Ideal R} [I.IsPrime]
...
+
+/-- The height of the maximal ideal equals the Krull dimension in a local ring -/
+theorem IsLocalRing.maximalIdeal_height_eq_ringKrullDim [IsLocalRing R]:
+    (IsLocalRing.maximalIdeal R).height = ringKrullDim R := by
+  rw [Ideal.height_eq_primeHeight, IsLocalRing.maximalIdeal_primeHeight_eq_ringKrullDim]
+
+/-- For a local ring with finite Krull dimension, a prime ideal has height equal to the Krull
+dimension if and only if it is the maximal ideal -/
+theorem Ideal.primeHeight_eq_ringKrullDim_iff [FiniteRingKrullDim R] [IsLocalRing R] {I : Ideal R}
+    [hI : I.IsPrime] : Ideal.primeHeight I = ringKrullDim R ↔ I = IsLocalRing.maximalIdeal R := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Height.lean:203]:
```suggestion
    [I.IsPrime] : Ideal.primeHeight I = ringKrullDim R ↔ I = IsLocalRing.maximalIdeal R := by
```

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 10]
```diff
@@ -121,3 +120,194 @@ lemma Ideal.height_strict_mono_of_is_prime {I J : Ideal R} [I.IsPrime]
...
+      Ideal.height_eq_primeHeight]
+
+lemma mem_minimalPrimes_of_primeHeight_eq_height {I J : Ideal R} [J.IsPrime] (e : I ≤ J)
+    (e' : J.primeHeight = I.height) [J.FiniteHeight] : J ∈ I.minimalPrimes := by
+  rw [← J.height_eq_primeHeight] at e'
+  exact mem_minimalPrimes_of_height_eq e (e' ▸ le_refl _)
+
+lemma exists_spanRank_le_and_le_height_of_le_height [IsNoetherianRing R] (I : Ideal R) (r : ℕ)
+  (hr : ↑r ≤ I.height) :
+  ∃ J ≤ I, J.spanRank ≤ r ∧ ↑r ≤ J.height := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Height.lean:257]:
```suggestion
    (hr : ↑r ≤ I.height) :
    ∃ J ≤ I, J.spanRank ≤ r ∧ ↑r ≤ J.height := by
```

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 11]
```diff
@@ -121,3 +120,194 @@ lemma Ideal.height_strict_mono_of_is_prime {I J : Ideal R} [I.IsPrime]
...
+lemma Ideal.finiteHeight_of_le {I J : Ideal R} (e : I ≤ J) (hJ : J ≠ ⊤) [FiniteHeight J] :
+    FiniteHeight I where
+  eq_top_or_height_ne_top := Or.inr <| by
+    rw [← lt_top_iff_ne_top]
+    exact (height_mono e).trans_lt (height_lt_top hJ)
+
+/-- If J is a prime ideal containing I, and its height is less than or equal to the height of I,
+then J is a minimal prime over I -/
+lemma Ideal.mem_minimalPrimes_of_height_eq {I J : Ideal R} (e : I ≤ J) [J.IsPrime]
+    [hJ : FiniteHeight J] (e' : J.height ≤ I.height) : J ∈ I.minimalPrimes := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Height.lean:155]:
```suggestion
    [FiniteHeight J] (e' : J.height ≤ I.height) : J ∈ I.minimalPrimes := by
```

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 12]
```diff
@@ -121,3 +120,194 @@ lemma Ideal.height_strict_mono_of_is_prime {I J : Ideal R} [I.IsPrime]
...
+  obtain ⟨M, hM, hM'⟩ := Ideal.exists_le_maximal I h
+  rcases lt_or_eq_of_le hM' with (hM' | hM')
+  · have h1 := Ideal.primeHeight_strict_mono hM'
+    have h2 := e ▸ M.primeHeight_le_ringKrullDim
+    simp only [WithBot.coe_le_coe] at h2
+    absurd h1; rw [not_lt]; exact h2
+  · exact hM' ▸ hM
+
+/-- The prime height of the maximal ideal equals the Krull dimension in a local ring -/
+theorem IsLocalRing.maximalIdeal_primeHeight_eq_ringKrullDim [IsLocalRing R]:
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Height.lean:191]:
```suggestion
theorem IsLocalRing.maximalIdeal_primeHeight_eq_ringKrullDim [IsLocalRing R] :
```

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 13]
```diff
@@ -121,3 +120,194 @@ lemma Ideal.height_strict_mono_of_is_prime {I J : Ideal R} [I.IsPrime]
...
+    (IsLocalRing.maximalIdeal R).primeHeight = ringKrullDim R := by
+  rw [ringKrullDim, Ideal.primeHeight, ← Order.height_top_eq_krullDim]; rfl
+
+/-- The height of the maximal ideal equals the Krull dimension in a local ring -/
+theorem IsLocalRing.maximalIdeal_height_eq_ringKrullDim [IsLocalRing R]:
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Height.lean:196]:
```suggestion
theorem IsLocalRing.maximalIdeal_height_eq_ringKrullDim [IsLocalRing R] :
```

**Review by erdOne — COMMENTED** [review]
Some more nitpicks that I missed last time.

File: Mathlib/RingTheory/LocalRing/MaximalIdeal/Basic.lean [hunk 14]
```diff
@@ -57,6 +58,13 @@ theorem le_maximalIdeal {J : Ideal R} (hJ : J ≠ ⊤) : J ≤ maximalIdeal R :=
   rcases Ideal.exists_le_maximal J hJ with ⟨M, hM1, hM2⟩
   rwa [← eq_maximalIdeal hM1]
 
+instance : OrderTop (PrimeSpectrum R) where
+  top := ⟨maximalIdeal R, inferInstance⟩
+  le_top := by
+    rintro ⟨P, hP⟩
+    apply le_maximalIdeal
+    apply Ideal.IsPrime.ne_top'
```
[the remark this answers is not in the document]
Comment (xyzw12345) [reply Mathlib/RingTheory/LocalRing/MaximalIdeal/Basic.lean:66]: I think it's used in the theorem IsLocalRing.maximalIdeal_primeHeight_eq_ringKrullDim in Ideal.Height line 191, where I found that the lemma Order.height_top_eq_krullDim can be used directly if given this OrderTop instance. So, I thought I'd just add this instance and use the lemma.

[the remark this answers is not in the document]
Comment (xyzw12345) [reply Mathlib/RingTheory/LocalRing/MaximalIdeal/Basic.lean:66]: I'm sorry, but may I ask that why is this probably unwanted? I thought this is probably like one of the most basic properties of local rings.

[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/RingTheory/LocalRing/MaximalIdeal/Basic.lean:66]: I see. In that case please move it near `IsLocalRing.closedPoint` and change `⟨maximalIdeal R, inferInstance⟩` to `closedPoint R`. 

The reason I was unsure about this is because we will have two "canonical" ways of writing the same thing (`closedPoint R` and `⊤`), but if you actually need the top spelling let's just add it.

[the remark this answers is not in the document]
Comment (xyzw12345) [reply Mathlib/RingTheory/LocalRing/MaximalIdeal/Basic.lean]: Thanks for the suggestion! I have already moved this instance to that place now.

**Review by erdOne — APPROVED** [review]
LGTM in principle. I will look through it one last time once the other PR lands. 
Again you still need someone else's review though.

Thanks again!

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 15]
```diff
@@ -121,3 +125,193 @@ lemma Ideal.height_strict_mono_of_is_prime {I J : Ideal R} [I.IsPrime]
...
+  have h : I ≠ ⊤ := by
+    intro h
+    simp only [h, ← Ideal.height_eq_primeHeight, Ideal.height_top, WithBot.coe_top] at e
+    exact ringKrullDim_ne_top e.symm
+  obtain ⟨M, hM, hM'⟩ := Ideal.exists_le_maximal I h
+  rcases lt_or_eq_of_le hM' with (hM' | hM')
+  · have h1 := Ideal.primeHeight_strict_mono hM'
+    have h2 := e ▸ M.primeHeight_le_ringKrullDim
+    simp only [WithBot.coe_le_coe] at h2
+    absurd h1; rw [not_lt]; exact h2
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/Height.lean:192]:
```suggestion
    simp [WithBot.coe_le_coe, ← not_lt, h1] at h2
```

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 16]
```diff
@@ -121,3 +125,193 @@ lemma Ideal.height_strict_mono_of_is_prime {I J : Ideal R} [I.IsPrime]
...
+    invFun := fun I => ⟨⟨_, (e.symm ⟨_, I.1.2, H _ I.2⟩).2⟩, Ideal.map_le_iff_le_comap.mpr I.2⟩
+    left_inv := fun I => Subtype.ext <| PrimeSpectrum.ext_iff.mpr <| by
+      have := (e.left_inv ⟨_, I.1.2⟩)
+      apply_fun (fun I ↦ I.1) at this
+      exact this
+    right_inv := fun I => Subtype.ext <| PrimeSpectrum.ext_iff.mpr <| by
+      have := (e.right_inv ⟨_, I.1.2, H _ I.2⟩)
+      apply_fun (fun I ↦ I.1) at this
+      exact this
+    map_rel_iff' := fun {I₁ I₂} => @RelIso.map_rel_iff _ _ _ _ e ⟨_, I₁.1.2⟩ ⟨_, I₂.1.2⟩ }
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/Height.lean:238]:
```suggestion
 { toFun I := ⟨⟨I.1.1.comap (algebraMap R A), (e ⟨_, I.1.2⟩).2.1⟩, Ideal.comap_mono I.2⟩
    invFun I := ⟨⟨_, (e.symm ⟨_, I.1.2, H _ I.2⟩).2⟩, Ideal.map_le_iff_le_comap.mpr I.2⟩
    left_inv I := Subtype.ext <| PrimeSpectrum.ext_iff.mpr <|
      congrArg (fun I ↦ I.1) (e.left_inv ⟨_, I.1.2⟩)
    right_inv I := Subtype.ext <| PrimeSpectrum.ext_iff.mpr <|
      congrArg (fun I ↦ I.1) (e.right_inv ⟨_, I.1.2, H _ I.2⟩)
    map_rel_iff' {I₁ I₂} := @RelIso.map_rel_iff _ _ _ _ e ⟨_, I₁.1.2⟩ ⟨_, I₂.1.2⟩ }
```

File: Mathlib/RingTheory/Ideal/MinimalPrime/Localization.lean (hunk 2 above)
Comment (xyzw12345) [reply Mathlib/RingTheory/Ideal/MinimalPrime/Localization.lean:161]: Well, the thing is that, it directly uses the theorem above it `Ideal.exists_minimalPrimes_comap_eq` (which uses another theorem above that ... and the proof eventually has something to do with localization), so the lemma seems have to be in this file?

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 17]
```diff
@@ -121,3 +125,193 @@ lemma Ideal.height_strict_mono_of_is_prime {I J : Ideal R} [I.IsPrime]
...
+lemma Ideal.primeHeight_le_ringKrullDim {I : Ideal R} [I.IsPrime] :
+    I.primeHeight ≤ ringKrullDim R := Order.height_le_krullDim _
+
+lemma Ideal.height_le_ringKrullDim_of_ne_top {I : Ideal R} (h : I ≠ ⊤) :
+    I.height ≤ ringKrullDim R := by
+  rw [Ideal.height]
+  have : Nonempty (I.minimalPrimes) := Ideal.nonempty_minimalPrimes h
+  rcases this with ⟨P, hP⟩; haveI := hP.1.1
+  refine le_trans ?_ (Ideal.primeHeight_le_ringKrullDim (I := P))
+  norm_cast; apply iInf₂_le; exact hP
```
[the remark this answers is not in the document]
Comment (xyzw12345) [reply Mathlib/RingTheory/Ideal/Height.lean:138]: Thanks for pointing that out! I guess that's a bad habit of mine, so I'll probably try to go through the code and modify the inappropriate ones.

**Comment by xyzw12345** [comment]
I tried to correct all the places where I simply used ';' to squeeze tactics into a single line, and did some more golfing. But it appeared to me that the lemma mentioned above cannot be moved to `MinimalPrimes.Basic` for the reason I commented above. Thanks for the review comments!

File: Mathlib/RingTheory/Ideal/MinimalPrime/Localization.lean [hunk 18]
```diff
@@ -180,6 +190,57 @@ theorem Ideal.minimalPrimes_eq_comap :
...
+  haveI := hp.1.1
+  refine ⟨⟨Ideal.IsPrime.comap _ , Ideal.comap_mono hp.1.2⟩, fun q hq e => ?_⟩
+  obtain ⟨⟨q', h₁⟩, h₂⟩ :=
+    i.surjective ⟨q, hq.1, Set.disjoint_of_subset_right e (i ⟨_, hp.1.1⟩).2.2⟩
+  replace h₂ : q'.comap (algebraMap R A) = q := by injection h₂
+  subst h₂
+  replace e := Ideal.map_mono (f := algebraMap R A) e
+  replace hq := Ideal.map_mono (f := algebraMap R A) hq.2
+  simp_rw [IsLocalization.map_comap S A] at e hq
+  exact Ideal.comap_mono (hp.2 ⟨h₁, hq⟩ e)
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/MinimalPrime/Localization.lean:213]:
```suggestion
  conv_rhs => rw [← map_comap S A J, minimalPrimes_map S]
  refine (Set.image_preimage_eq_iff.mpr ?_).symm
  exact subset_trans (Ideal.minimalPrimes_comap_subset (algebraMap R A) J) (by simp)
```
if you move `IsLocalization.minimalPrimes_map` above.

**Review by chrisflav — COMMENTED** [review]
Sorry, for my slow responses, hopefully last set of comments.

**Comment by xyzw12345** [comment]
Thanks for all the review comments!

**Review by chrisflav — APPROVED** [review]
Thanks a lot for doing this!

maintainer merge

**Comment by chrisflav** [comment]
For the record: The `large-import` label here is fine I believe, since they have been building the height API over several PRs, so some import bumps are expected.

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 19]
```diff
@@ -116,8 +122,189 @@ lemma Ideal.height_strict_mono_of_is_prime {I J : Ideal R} [I.IsPrime]
...
+  · exact hM' ▸ hM
+
+/-- The prime height of the maximal ideal equals the Krull dimension in a local ring -/
+theorem IsLocalRing.maximalIdeal_primeHeight_eq_ringKrullDim [IsLocalRing R] :
+    (IsLocalRing.maximalIdeal R).primeHeight = ringKrullDim R := by
+  rw [ringKrullDim, Ideal.primeHeight, ← Order.height_top_eq_krullDim]
+  rfl
+
+/-- The height of the maximal ideal equals the Krull dimension in a local ring. -/
+theorem IsLocalRing.maximalIdeal_height_eq_ringKrullDim [IsLocalRing R] :
```
Comment (jcommelin) [inline Mathlib/RingTheory/Ideal/Height.lean:208]:
```suggestion
@[simp]
theorem IsLocalRing.maximalIdeal_height_eq_ringKrullDim [IsLocalRing R] :
```

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge

**Comment by jcommelin** [comment]
bors merge
